US06949542B2
[2-Amino-5-(2-methoxy-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [5-(2-methoxy-ethoxy)-2-nitro-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example A26) (7.90 g, 20.8 mmol) by hydrogenation with 10% Pd/C according to the general procedure J (method a). Obtained as a yellow solid (7.00 g, 96%).

reactant | [5-(2-methoxy-ethoxy)-2-nitro-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 20.8 mmol, 7.90 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCCOC)C(F)(F)F)[N+](=O)[O-])=O | C15H19F3N2O6
catalyst | Pd/C | [Pd] | Pd
product | [2-Amino-5-(2-methoxy-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCCOC)C(F)(F)F)N)=O | C15H21F3N2O4
